US06762300B2
2) Synthesis of ethyl 4-(4-benzylpiperazin-1-yl)-2-formylphenoxyacetate
0.5 g of 5-(4-benzylpiperazin-1-yl)-2-hydroxybenzaldehyde are dissolved in 5 ml of NMP at 20° C. under nitrogen with stirring, and 0.25 g of potassium carbonate and 0.2 ml of ethyl bromoacetate are added. The mixture is stirred at 110° for 4 hours and cooled to 15°. 30 ml of water and 30 ml of ethyl acetate are added to the mixture, the phases are separated, and the aqueous phase is extracted with 30 ml of ethyl acetate. Combined organic phases are washed with 2×30 ml of water and freed from solvent under reduced pressure. The yellow oil which remains (0.7 g) is chromatographed on 10 g of silica gel (MTB ether/heptane 5:1) and gives 0.45 g of product (70%; yellowish oil), MS 382 (M+), 296, 263, 199, 149, 119, 91 (100%).

reactant | 5-(4-benzylpiperazin-1-yl)-2-hydroxybenzaldehyde | 0.5 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=CC(=C(C=O)C1)O | C18H20N2O2
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.2 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | 30 ml | O | H2O
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(4-benzylpiperazin-1-yl)-2-formylphenoxyacetate | 0.45 g, 70% | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC(=C(OCC(=O)OCC)C=C1)C=O | C22H26N2O4
